US09353108B2
H) 6-(1-((6-Cyclopropyl-2,4′-difluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
A 2 M aqueous sodium hydroxide solution (2 mL) was added at room temperature to an ethanol (8 mL) solution of methyl 6-(1-((6-cyclopropyl-2,4′-difluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (335 mg), and the mixture was stirred at 80° C. for 3 hours in a nitrogen atmosphere. Then, the solvent was distilled off under reduced pressure. Water was added to the obtained residue, and the mixture was neutralized with 2 M hydrochloric acid. The deposited crystals were collected by filtration and dissolved in ethanol, and then, the solvent was distilled off under reduced pressure. The obtained residue was crystallized (hexane/ethyl acetate) and further recrystallized (hexane/ethanol) to obtain the title compound (276 mg).

reactant | sodium hydroxide | 2 M, 2 mL | [OH-].[Na+]
reactant | methyl 6-(1-((6-cyclopropyl-2,4′-difluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 335 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OC)=O | C35H39F2N3O4
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 6-(1-((6-Cyclopropyl-2,4′-difluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 276 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)O)=O | C34H37F2N3O4
